US05043454
Ethyl 1-(2,4-dinitrophenyl)-2-methylimidazole-4-carboxylate
16 ml of triethylamine was added to 14.5 g (0.078 mol) of 2,4-dinitrofluorobenzene, 12 g (0.078 mol) of ethyl 2-methylimidazole-4-carboxylate and 500 ml of toluene, and the mixture was refluxed for 18 hours. The solvent was then distilled off under reduced pressure and the residue was chromatographed using pentane/ethyl acetate as mobile phase.

reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dinitrofluorobenzene | 0.078 mol, 14.5 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | ethyl 2-methylimidazole-4-carboxylate | 0.078 mol, 12 g | CC=1NC=C(N1)C(=O)OCC | C7H10N2O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-(2,4-dinitrophenyl)-2-methylimidazole-4-carboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NC(=C1)C(=O)OCC)C | C13H12N4O6
